US06498165B1
2-[2-Pyridylmethylamino]-4-[benzimidazol-1-yl]pyrimidine
2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine was reacted with 2-(aminomethyl)pyridine according to the procedure described in EXAMPLE 1, Step C to afford the title compound. Mass Spectrum (ESI): m/e 303.0 (M+1). 1H NMR (500 MHz, CDCl3): δ 8.63 (m, 2H); 8.46 (d, J=5.3 Hz, 1H); 8.12 (br s, 1H); 7.86 (m, 1H); 7.70 (m, 1H); 7.38 (m, 3H); 7.24 (m, 1H); 6.85 (d, J=5.3 Hz, 1H); 6.50 (br s, 1H); 4.87 (d, J=5.4 Hz, 2H).

reactant | 2-Methanesulfonyl-4-[benzimidazol-1-yl]pyrimidine | CS(=O)(=O)C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C12H10N4O2S
reactant | 2-(aminomethyl)pyridine | NCC1=NC=CC=C1 | C6H8N2
product | 2-[2-Pyridylmethylamino]-4-[benzimidazol-1-yl]pyrimidine | N1=C(C=CC=C1)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C17H14N6
